US04171431
Following the procedure described in Preparation 2, Part B, above, but substituting the n-butylbiuret prepared in Part A, above, for the methylbiuret, there is prepared 60 gm. (92% yield) of 1-n-butyl-5-azauracil.

reactant | n-butylbiuret | C(CCC)NC(=O)NC(=O)N | C6H13N3O2
reactant | methylbiuret | CNC(=O)NC(=O)N | C3H7N3O2
product | 1-n-butyl-5-azauracil | 92% yield | C(CCC)N1C(=O)NC(=O)N=C1 | C7H11N3O2
